US08053457B2
4-Chloro-2-(3-methoxy-propoxy)-benzylamine
The title compound is synthesized by coupling followed by reduction of 4-chloro-2-fluoro-benzonitrile and 3-methoxy-propanol analogously to the preparation of Intermediate 98.1 as a colorless solid; ES-MS: M+=230.1; HPLC: AtRet=2.81 min.

reactant | 4-chloro-2-fluoro-benzonitrile | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | 3-methoxy-propanol | COCCCO | C4H10O2
product | 4-Chloro-2-(3-methoxy-propoxy)-benzylamine | ClC1=CC(=C(CN)C=C1)OCCCOC | C11H16ClNO2
